US05462954
Ethyl 3-(2-(3-(2-bromo-4-(4-fluorophenyl)-5-methoxyphenoxy)propoxy)phenyl)propionate
The title intermediate was prepared from 3-(4-(4-fluorophenyl)-2-bromo-5-methoxyphenoxy)propyl chloride and ethyl 3-(2-hydroxyphenyl)propionate in 76% yield by the procedure of Preparation 36. NMR

reactant | 3-(4-(4-fluorophenyl)-2-bromo-5-methoxyphenoxy)propyl chloride | FC1=CC=C(C=C1)C1=CC(=C(OCCCCl)C=C1OC)Br | C16H15BrClFO2
reactant | ethyl 3-(2-hydroxyphenyl)propionate | OC1=C(C=CC=C1)CCC(=O)OCC | C11H14O3
product | Ethyl 3-(2-(3-(2-bromo-4-(4-fluorophenyl)-5-methoxyphenoxy)propoxy)phenyl)propionate | 76% yield | BrC1=C(OCCCOC2=C(C=CC=C2)CCC(=O)OCC)C=C(C(=C1)C1=CC=C(C=C1)F)OC | C27H28BrFO5
